US04404138
3-[2-(3-Azabicyclo[3.3.1]non-3-yl)-9-chloro-1,2,3,4-tetrahydro-8-methyl-5H-[1]benzopyrano[3,4-c]pyridin-5-one
Prepared by the method described for Example 13 from 9-chloro-1,2,3,4-tetrahydro-8-methyl-5H-[1]benzopyrano[3,4-c]pyridin-5-one (1.2 g, 0.005 moles), triethylamine (1.4 ml, 0.010 moles), and 3-(2-chloroethyl)-3-azabicyclo[3.3.1]nonane hydrochloride (1.1 g, 0.005 moles). Recrystallization from methanol gave the product (1.2 g), mp 147°-149° C.

reactant | 9-chloro-1,2,3,4-tetrahydro-8-methyl-5H-[1]benzopyrano[3,4-c]pyridin-5-one | 0.005 moles, 1.2 g | ClC=1C(=CC2=C(C1)C1=C(CNCC1)C(O2)=O)C | C13H12ClNO2
reactant | triethylamine | 0.010 moles, 1.4 ml | C(C)N(CC)CC | C6H15N
reactant | 3-(2-chloroethyl)-3-azabicyclo[3.3.1]nonane hydrochloride | 0.005 moles, 1.1 g | Cl.ClCCN1CC2CCCC(C1)C2
product | 2-(3-Azabicyclo[3.3.1]non-3-yl)-9-chloro-1,2,3,4-tetrahydro-8-methyl-5H-[1]benzopyrano[3,4-c]pyridin-5-one | 1.2 g | C12CN(CC(CCC1)C2)C2CC1=C(CN2)C(OC2=C1C=C(C(=C2)C)Cl)=O | C21H25ClN2O2
